US06339093B1
4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-6-ol hydrochloride
The title compound, MS: m/e=277.2 (M+H+), was prepared 4-chloro-quinolin-6-ol and 1,2,3,4-tetrahydroisoquinoline.

reactant | 4-chloro-quinolin-6-ol | ClC1=CC=NC2=CC=C(C=C12)O | C9H6ClNO
reactant | 1,2,3,4-tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | 4-(3,4-Dihydro-1H-isoquinolin-2-yl)-quinolin-6-ol hydrochloride | Cl.C1N(CCC2=CC=CC=C12)C1=CC=NC2=CC=C(C=C12)O | InChI=1S/C18H16N2O.ClH/c21-15-5-6-17-16(11-15)18(7-9-19-17)20-10-8-13-3-1-2-4-14(13)12-20;/h1-7,9,11,21H,8,10,12H2;1H
